US04218261
Preparation of β-hydroxy-β-carboxy-isocaproic acid
An aqueous culture medium was prepared to contain 10 g/dl glucose, 1.5 g/dl ammonium sulfate, 0.1 g/dl KH2PO4, 0.04 g/dl MgSO4. 7H2O, 0.001 g/dl MnSO4. 4H2O, 250 μg/l biotin, 200 μg/l thiamine.HCl, 1.5 ml/dl soybean protein hydrolyzate (containing 6.5 g total nitrogen/dl) and 5 g/dl CaCO3 (separately sterilized) and adjusted to pH 7.0 with KOH. Twenty ml batches of the aqueous culture medium were placed in 500 ml shaking flasks and heated at 110° C. for 10 minutes with steam.

reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | ammonium sulfate | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
reactant | KH2PO4 | OP(=O)(O)[O-].[K+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | thiamine | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO
reactant | HCl | Cl | ClH
reactant | CaCO3 | C(=O)([O-])[O-].[Ca+2]
reactant | KOH | [OH-].[K+]
catalyst | MnSO4 | [O-]S(=O)(=O)[O-].[Mn+2]
product | β-hydroxy-β-carboxy-isocaproic acid | OC(CC(=O)O)(C(C)C)C(=O)O | C7H12O5
